US06346526B1
2,3-DIHYDRO-NAPHTHO[1,8-DE][1,2]THIAZINE1,1-DIOXIDE
A solution of 1,1-dioxo-2,3-dihydro-naphtho[1,8-de][1,2]thiazin-3-one (137 mg, 0.587 mmol) in anhydrous tetrahydrofuran (2 mL) was treated with a 1.0M solution of borane-tetrahydrofuran complex in tetrahydrofuran (1.17 mL, 1.17 mmol). The resulting solution was heated at 65° C. for 5 hours. The reaction mixture was quenched with methanol (5 mL) and evaporated under vacuum. The residue was purified by preparative layer chromatography on two 1 mm×20 cm×20 cm silica gel GF plates, developing with 7:3 ethyl acetate-hexanes, to afford the title compound (78 mg, 61% yield).

reactant | 1,1-dioxo-2,3-dihydro-naphtho[1,8-de][1,2]thiazin-3-one | 0.587 mmol, 137 mg | O=S1(NC(C2=C3C1=CC=CC3=CC=C2)=O)=O | C11H7NO3S
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.17 mmol, 1.17 mL | O1CCCC1 | C4H8O
product | 2,3-DIHYDRO-NAPHTHO[1,8-DE][1,2]THIAZINE1,1-DIOXIDE | 78 mg, 61% yield | S1(NCC2=C3C1=CC=CC3=CC=C2)(=O)=O | C11H9NO2S
